US07495006B2
A solution of 5-fluoro-1-[cis-3-(hydroxymethyl)cyclobutyl]cytosine (23 mg, 0.11 mmol) in triethylphosphate was cooled to 0° C. and treated dropwise with phosphorus oxychloride. The mixture was aged for 20 h at 0° C. and then treated with water (0.1 mL). The mixture was aged for 6 h and then concentrated under high vacuum. The crude gum was purified by chromatography on SP207 resin with a gradient from 0-20% methanol in water. Fractions were analyzed by HPLC (reverse phase) and appropriate fractions were lyophilized to give 5-fluoro-1-[cis-3-(hydroxymethyl)cyclobutyl]cytosine mono-phosphate (30 mg) as a gum and was used in next step without further purification. A suspension of 5-fluoro-1-[cis-3-(hydroxymethyl)cyclobutyl]cytosine monophosphate (30 mg) in tert-butanol (1 mL) and water (1 mL) was heated under a gentle reflux while a solution of DCC (91 mg, 0.44 mmol) in tert-butanol was added dropwise over a 1 h period. After 8 h under reflux, the mixture was cooled to rt and the resulting precipitate was filtered and washed with water (3×20 mL). The filtrate was extracted with ether (3×40 mL) and then frozen and lyophilized to give the phosphomorpholidate intermediate (65 mg) as pale yellow solid. A solution of the phosphomorpholidate intermediate (65 mg), anhydrous tributylammonium pyrophosphate (176 mg, 0.386 mmol) in dry DMSO (2 mL) was aged for 4 d at ambient temperature. The yellow mixture was applied directly to a column of DEAE Sephadex (11 mm×220 mm) and eluted with water (50 mL) and then a gradient from 0.35M to 0.45M triethylammonium bicarbonate. Fractions were analyzed by HPLC (reverse phase) and appropriate fractions were pooled and lyophilized. The resulting gum was co-evaporated with ethanol (3×20 mL) under high vacuum to give the triethylammonium-tributylammonium salt of 5-fluoro-1-[cis-3-(hydroxymethyl)-cyclobutyl]-cytosine triphosphate (50 mg) as a sticky white solid. 1H NMR (D2O, 400 MHz): δ 1.22 (t, 20H, Et3N), 2.14 (m, 2H), 2.49 (m, 3H), 3.08 (d, 2H), 3.19 (q, 12H, Et3N), 4.64 (m, 1H),), 8.12 (d, J=7.2 Hz, 1H). 31PNMR (D20, referenced to H3PO4) δ −22.9 (1P), −10.5 (2P).

reactant | 5-fluoro-1-[cis-3-(hydroxymethyl)cyclobutyl]cytosine | 0.11 mmol, 23 mg | FC=1C(=NC(N(C1)[C@@H]1C[C@@H](C1)CO)=O)N | C9H12FN3O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 0.1 mL | O | H2O
reactant | triethylphosphate | C(C)OP(=O)(OCC)OCC | C6H15O4P
product | 5-fluoro-1-[cis-3-(hydroxymethyl)cyclobutyl]cytosine mono-phosphate | 30 mg | P(=O)(O)(O)O.FC=1C(=NC(N(C1)[C@@H]1C[C@@H](C1)CO)=O)N | InChI=1S/C9H12FN3O2.H3O4P/c10-7-3-13(9(15)12-8(7)11)6-1-5(2-6)4-14;1-5(2,3)4/h3,5-6,14H,1-2,4H2,(H2,11,12,15);(H3,1,2,3,4)/t5-,6+;
